### PR TITLE
Add the |A+A| form of weak PFR with the paper's constants

### PR DESCRIPTION
**Pull request by Chessing234**
## Summary

`weak_PFR_int` takes difference doubling `|A-A| ≤ K|A|` and returns a subset of size at least `K^{-17} |A|` with affine dimension at most `(40 / log 2) log K`. The module header claimed sumset doubling `|A+A|` with those same numbers, which is not the theorem.

GGMT Theorem 1.3 is the sumset form. Ruzsa's triangle inequality gives `|A-A| |A| ≤ |A+A|^2`, so `|A-A| ≤ K^2 |A|` and the constants square: `K^{-34}` and `(80 / log 2) log K`. That is now `weak_PFR_int_sumset` in the library. Palomar's `Marton.weak_pfr_int` calls it instead of repeating the triangle-inequality argument.

The Palomar comment and `formalization.yaml` had called this `C₁ = 68`. The compared inequality is `K^{-34} |A|`, which is `C₁ = 34` in the usual writing `|A'| ≥ K^{-C₁} |A|`. (`C₂` stays `80 / log 2`.)

## Test plan

- [ ] `weak_PFR_int` still hypothesises `|A-A|`; `weak_PFR_int_sumset` hypothesises `|A+A|`.
- [ ] Palomar `Marton.weak_pfr_int` reduces to `weak_PFR_int_sumset`.
- [ ] CI `lake build` (new lemma is the Palomar argument moved into `PFR/WeakPFR.lean`).

### CODE REVIEW

File: PFRPalomar/Solution.lean [hunk 1]
```diff
@@ -99,33 +98,9 @@ theorem weak_pfr_int {G : Type*} [AddCommGroup G] [Module.Free ℤ G] [Module.Fi
...
-  obtain ⟨A', hA'sub, hcard, hdim⟩ := weak_PFR_int (K := K ^ 2) hA₀ hdiff
-  refine ⟨A', hA'sub, ?_, ?_⟩
-  · refine le_trans (le_of_eq ?_) hcard
-    rw [← Real.rpow_natCast K 2, ← Real.rpow_mul (by linarith : (0:ℝ) ≤ K)]
-    norm_num
-  · refine le_trans hdim (le_of_eq ?_)
-    rw [Real.log_pow]
-    push_cast
-    ring
+  haveI : Finite A := Set.finite_coe_iff.mpr hA
```
Comment (YaelDillies) [inline PFRPalomar/Solution.lean]:
```suggestion
  have : Finite A := hA.to_subtype
```

File: PFR/WeakPFR.lean [hunk 2]
```diff
@@ -1045,3 +1048,48 @@ theorem weak_PFR_int
...
+$C_2 = 80 / \log 2$. It follows from `weak_PFR_int` by Ruzsa's triangle inequality
+`|A-A| |A| ≤ |A+A|^2`, which gives $|A-A| \le K^2 |A|$. -/
+theorem weak_PFR_int_sumset
+    {G : Type*} [AddCommGroup G] [Module.Free ℤ G] [Module.Finite ℤ G]
+    {A : Set G} [A_fin : Finite A] (hnA : A.Nonempty) {K : ℝ}
+    (hA : Nat.card (A + A) ≤ K * Nat.card A) :
+    ∃ A' : Set G, A' ⊆ A ∧ Nat.card A' ≥ K ^ (-34 : ℝ) * Nat.card A ∧
+      AffineSpace.finrank ℤ A' ≤ (80 / log 2) * log K := by
+  classical
+  have hAfin : A.Finite := Set.finite_coe_iff.mp A_fin
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean]:
```suggestion
  have hAfin : A.Finite := A_fin.to_subtype
```

**Comment by Chessing234** [comment]
switched to to_subtype

**Comment by Chessing234** [comment]
to_subtype goes the other way (set.finite → finite); used a.tofinite here

File: PFR/WeakPFR.lean [hunk 3]
```diff
@@ -1045,3 +1048,48 @@ theorem weak_PFR_int
...
+    have hsq : ((s + s).card : ℝ) * (s + s).card ≤ (K * s.card) * (K * s.card) :=
+      mul_le_mul hA hA hsum₀ (hsum₀.trans hA)
+    nlinarith
+  obtain ⟨A', hA'sub, hcard, hdim⟩ := weak_PFR_int (K := K ^ 2) hnA hdiff
+  refine ⟨A', hA'sub, ?_, ?_⟩
+  · refine le_trans (le_of_eq ?_) hcard
+    rw [← Real.rpow_natCast K 2, ← Real.rpow_mul (by linarith : (0 : ℝ) ≤ K)]
+    norm_num
+  · refine le_trans hdim (le_of_eq ?_)
+    rw [Real.log_pow]
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean]:
```suggestion
  · grw [hdim, Real.log_pow]
    apply le_of_eq
```

File: PFR/WeakPFR.lean [hunk 4]
```diff
@@ -1045,3 +1048,48 @@ theorem weak_PFR_int
...
+    nlinarith
+  have hruzsa : ((s - s).card : ℝ) * s.card ≤ ((s + s).card : ℝ) * ((s + s).card : ℝ) := by
+    exact_mod_cast Finset.ruzsa_triangle_inequality_sub_add_add s s s
+  have hcoesub : ((s : Set G) - (s : Set G)) = ((s - s : Finset G) : Set G) := by
+    simp
+  have hdiff : (Nat.card ((s : Set G) - (s : Set G)) : ℝ) ≤ K ^ 2 * Nat.card (s : Set G) := by
+    rw [hcoesub, hcoe, hcoe]
+    have hsum₀ : (0 : ℝ) ≤ (s + s).card := by positivity
+    have hsq : ((s + s).card : ℝ) * (s + s).card ≤ (K * s.card) * (K * s.card) :=
+      mul_le_mul hA hA hsum₀ (hsum₀.trans hA)
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean]: Can you use `grw` here too?

File: PFR/WeakPFR.lean [hunk 5]
```diff
@@ -1045,3 +1048,48 @@ theorem weak_PFR_int
...
+    nlinarith
+  obtain ⟨A', hA'sub, hcard, hdim⟩ := weak_PFR_int (K := K ^ 2) hnA hdiff
+  refine ⟨A', hA'sub, ?_, ?_⟩
+  · refine le_trans (le_of_eq ?_) hcard
+    rw [← Real.rpow_natCast K 2, ← Real.rpow_mul (by linarith : (0 : ℝ) ≤ K)]
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean]:
```suggestion
  · grw [← hcard, ← Real.rpow_natCast K 2, ← Real.rpow_mul (by linarith : (0 : ℝ) ≤ K)]
```

**Comment by Chessing234** [comment]
rebased onto master (conflict from #303)

**Comment by Chessing234** [comment]
switched those goals to grw

File: PFR/WeakPFR.lean [hunk 6]
```diff
@@ -19,9 +20,11 @@ Here we use the entropic form of PFR to deduce a weak form of PFR over the integ
 
 ## Main statement
 
-* `weak_PFR_int`: Let $A\subseteq \mathbb{Z}^d$ and $\lvert A+A\rvert\leq K\lvert A\rvert$.
+* `weak_PFR_int`: Let $A\subseteq \mathbb{Z}^d$ and $\lvert A-A\rvert\leq K\lvert A\rvert$.
   There exists $A'\subseteq A$ such that $\lvert A'\rvert \geq K^{-17}\lvert A\rvert$ and
   $\dim A' \leq (40/\log 2)\log K$.
+* `weak_PFR_int_sumset`: the same conclusion with $\lvert A+A\rvert\leq K\lvert A\rvert$,
+  at the cost of squaring $K$, hence $K^{-34}$ and $(80/\log 2)\log K$.
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean]:
```suggestion
* `weak_PFR_int_sumset`: the same conclusion but assuming $\lvert A+A\rvert\leq K\lvert A\rvert$,
  at the cost of squaring $K$.
```

File: PFR/WeakPFR.lean [hunk 7]
```diff
@@ -1045,3 +1048,49 @@ theorem weak_PFR_int
...
+  obtain ⟨A', hA'sub, hcard, hdim⟩ := weak_PFR_int (K := K ^ 2) hnA hdiff
+  refine ⟨A', hA'sub, ?_, ?_⟩
+  · grw [hcard]
+    rw [← Real.rpow_natCast K 2, ← Real.rpow_mul (by linarith : (0 : ℝ) ≤ K)]
+    norm_num
+  · grw [hdim]
+    rw [Real.log_pow]
+    push_cast
+    ring_nf
+    rfl
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean]: This proof is way too long. Can you shorten it to something like 10-15 lines?

Comment (Chessing234) [reply PFR/WeakPFR.lean]: ill try

File: PFR/WeakPFR.lean (hunk 6 above)
Comment (Chessing234) [reply PFR/WeakPFR.lean]: done, trimmed that line

File: PFR/WeakPFR.lean (hunk 7 above)
Comment (Chessing234) [reply PFR/WeakPFR.lean]: shortened it to ~15 lines

Comment (Chessing234) [reply PFR/WeakPFR.lean]: ci was red on the shorten, pushed a type fix

File: PFR/WeakPFR.lean [hunk 8]
```diff
@@ -1045,3 +1048,39 @@ theorem weak_PFR_int
...
+    {G : Type*} [AddCommGroup G] [Module.Free ℤ G] [Module.Finite ℤ G]
+    {A : Set G} [Finite A] (hnA : A.Nonempty) {K : ℝ}
+    (hA : Nat.card (A + A) ≤ K * Nat.card A) :
+    ∃ A' : Set G, A' ⊆ A ∧ Nat.card A' ≥ K ^ (-34 : ℝ) * Nat.card A ∧
+      AffineSpace.finrank ℤ A' ≤ (80 / log 2) * log K := by
+  classical
+  obtain ⟨s, rfl⟩ : ∃ s : Finset G, (↑s : Set G) = A :=
+    ⟨A.toFinite.toFinset, A.toFinite.coe_toFinset⟩
+  have hsne : s.Nonempty := by simpa using hnA
+  have hcoe : ∀ t : Finset G, Nat.card (↑t : Set G) = t.card := fun _ ↦ by simp
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean]:
```suggestion
  have hcoe : ∀ t : Finset G, Nat.card (↑t : Set G) = t.card := by simp
```

File: PFR/WeakPFR.lean [hunk 9]
```diff
@@ -1045,3 +1048,39 @@ theorem weak_PFR_int
...
+`|A-A| |A| ≤ |A+A|^2`, which gives $|A-A| \le K^2 |A|$. -/
+theorem weak_PFR_int_sumset
+    {G : Type*} [AddCommGroup G] [Module.Free ℤ G] [Module.Finite ℤ G]
+    {A : Set G} [Finite A] (hnA : A.Nonempty) {K : ℝ}
+    (hA : Nat.card (A + A) ≤ K * Nat.card A) :
+    ∃ A' : Set G, A' ⊆ A ∧ Nat.card A' ≥ K ^ (-34 : ℝ) * Nat.card A ∧
+      AffineSpace.finrank ℤ A' ≤ (80 / log 2) * log K := by
+  classical
+  obtain ⟨s, rfl⟩ : ∃ s : Finset G, (↑s : Set G) = A :=
+    ⟨A.toFinite.toFinset, A.toFinite.coe_toFinset⟩
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean]:
```suggestion
  lift A to Finset G using A.toFinite
```

Comment (Chessing234) [reply PFR/WeakPFR.lean]: done

File: PFR/WeakPFR.lean (hunk 8 above)
Comment (Chessing234) [reply PFR/WeakPFR.lean]: done

File: PFR/WeakPFR.lean [hunk 10]
```diff
@@ -1063,19 +1063,18 @@ theorem weak_PFR_int_sumset
...
-  obtain ⟨s, rfl⟩ : ∃ s : Finset G, (↑s : Set G) = A :=
-    ⟨A.toFinite.toFinset, A.toFinite.coe_toFinset⟩
-  have hsne : s.Nonempty := by simpa using hnA
-  have hcoe : ∀ t : Finset G, Nat.card (↑t : Set G) = t.card := fun _ ↦ by simp
-  rw [show ((↑s : Set G) + ↑s) = ((s + s : Finset G) : Set G) by simp, hcoe, hcoe] at hA
-  have hspos : (0 : ℝ) < s.card := Nat.cast_pos.mpr hsne.card_pos
+  lift A to Finset G using A.toFinite
+  have hsne : A.Nonempty := by simpa using hnA
+  have hcoe : ∀ t : Finset G, Nat.card (↑t : Set G) = t.card := by simp
+  rw [show ((↑A : Set G) + ↑A) = ((A + A : Finset G) : Set G) by simp, hcoe, hcoe] at hA
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean]: Try making this work, possibly by tagging more lemmas with `norm_cast`
```suggestion
  norm_cast at hA
```

File: PFR/WeakPFR.lean [hunk 11]
```diff
@@ -1063,19 +1063,18 @@ theorem weak_PFR_int_sumset
...
       AffineSpace.finrank ℤ A' ≤ (80 / log 2) * log K := by
   classical
-  obtain ⟨s, rfl⟩ : ∃ s : Finset G, (↑s : Set G) = A :=
-    ⟨A.toFinite.toFinset, A.toFinite.coe_toFinset⟩
-  have hsne : s.Nonempty := by simpa using hnA
-  have hcoe : ∀ t : Finset G, Nat.card (↑t : Set G) = t.card := fun _ ↦ by simp
-  rw [show ((↑s : Set G) + ↑s) = ((s + s : Finset G) : Set G) by simp, hcoe, hcoe] at hA
-  have hspos : (0 : ℝ) < s.card := Nat.cast_pos.mpr hsne.card_pos
+  lift A to Finset G using A.toFinite
+  have hsne : A.Nonempty := by simpa using hnA
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:1073]:
```suggestion
  simp at hnA
```

Comment (Chessing234) [reply PFR/WeakPFR.lean:1073]: done

File: PFR/WeakPFR.lean (hunk 10 above)
Comment (Chessing234) [reply PFR/WeakPFR.lean]: switched to norm_cast

Comment (Chessing234) [reply PFR/WeakPFR.lean]: needed a local norm_cast on Nat.card_eq_finsetCard

Comment (Chessing234) [reply PFR/WeakPFR.lean]: norm_cast wont fire on CoeSort Nat.card after lift, so simp_rw [Nat.card_eq_finsetCard] instead

File: PFR/WeakPFR.lean (hunk 11 above)
Comment (Chessing234) [reply PFR/WeakPFR.lean:1073]: simp at hnA was a no-op after lift, so replace + simpa

File: PFR/WeakPFR.lean (hunk 10 above)
Comment (Chessing234) [reply PFR/WeakPFR.lean]: simp_rw [Nat.card_eq_finsetCard] — same rewrite, CoeSort-safe

Comment (Chessing234) [reply PFR/WeakPFR.lean]: exact_mod_cast on hA instead — norm_cast alone doesnt rewrite CoeSort Nat.card

File: PFR/WeakPFR.lean (hunk 11 above)
Comment (Chessing234) [reply PFR/WeakPFR.lean:1073]: kept have hsne := by simpa; plain simp at hnA was a no-op

File: PFR/WeakPFR.lean (hunk 10 above)
Comment (Chessing234) [reply PFR/WeakPFR.lean]: rw [Nat.card_eq_finsetCard] — closest that actually works after lift

Comment (Chessing234) [reply PFR/WeakPFR.lean]: added a local norm_cast lemma for Nat.card on Set coe — that was the missing piece

File: PFR/WeakPFR.lean [hunk 12]
```diff
@@ -1045,3 +1048,43 @@ theorem weak_PFR_int
     norm_cast
     exact Nat.card_pos
   exact_mod_cast ne_of_gt (@Nat.card_pos _ hnA.to_subtype _)
+
+/-- `Nat.card` of a finset coerced to a set is the finset card. Needed so `norm_cast`
+can rewrite after `lift A to Finset`. -/
+@[local norm_cast] private lemma Nat.card_coe_finset_set {α : Type*} (s : Finset α) :
+    Nat.card (s : Set α) = s.card := by
+  rw [Nat.card_coe_set_eq, Set.ncard_coe_finset]
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:1056]: Can you instead tag the two lemmas in the proof with `norm_cast`?

File: PFR/WeakPFR.lean [hunk 13]
```diff
@@ -1045,3 +1048,43 @@ theorem weak_PFR_int
...
+theorem weak_PFR_int_sumset
+    {G : Type*} [AddCommGroup G] [Module.Free ℤ G] [Module.Finite ℤ G]
+    {A : Set G} [Finite A] (hnA : A.Nonempty) {K : ℝ}
+    (hA : Nat.card (A + A) ≤ K * Nat.card A) :
+    ∃ A' : Set G, A' ⊆ A ∧ Nat.card A' ≥ K ^ (-34 : ℝ) * Nat.card A ∧
+      AffineSpace.finrank ℤ A' ≤ (80 / log 2) * log K := by
+  classical
+  lift A to Finset G using A.toFinite
+  have hsne : A.Nonempty := by simpa using hnA
+  norm_cast at hA
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:1074]: Does this not work?
```suggestion
  norm_cast at hA hnA
```

File: PFR/WeakPFR.lean [hunk 14]
```diff
@@ -1045,3 +1048,43 @@ theorem weak_PFR_int
...
+/-- Let $A\subseteq \mathbb{Z}^d$ and $\lvert A+A\rvert\leq K\lvert A\rvert$.
+There exists $A'\subseteq A$ such that $\lvert A'\rvert \geq K^{-34}\lvert A\rvert$
+and $\dim A' \leq \frac{80}{\log 2} \log K$.
+
+This is Theorem 1.3 of arXiv:2311.05762 with explicit constants $C_1 = 34$ and
+$C_2 = 80 / \log 2$. It follows from `weak_PFR_int` by Ruzsa's triangle inequality
+`|A-A| |A| ≤ |A+A|^2`, which gives $|A-A| \le K^2 |A|$. -/
+theorem weak_PFR_int_sumset
+    {G : Type*} [AddCommGroup G] [Module.Free ℤ G] [Module.Finite ℤ G]
+    {A : Set G} [Finite A] (hnA : A.Nonempty) {K : ℝ}
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:1067]:
```suggestion
    {A : Set G} (hA : A.Finite) (hnA : A.Nonempty) {K : ℝ}
```
